US07019166B2
Finally, a further possibility for preparing 2,4,5-trimethylphenylacetic acid is to initially react pseudocumene with glyoxylic acid to give 2,4,5-trimethylmandelic acid (Atti Accad., Lettere Arti Palermo, Pt. I24 (1965) 19–33) and then to reduce it to 2,4,5-trimethylphenylacetic acid (J. Amer. Chem. Soc. 58 (1936) 629–35). However, the preparation of 2,4,5-trimethylmandelic acid by the process specified has the disadvantage that the 2,4,5-trimethylmandelic acid which has already formed reacts with further pseudocumene under the customary reaction conditions and thus forms considerable proportions of 2,2′,4,4′,5,5′-hexamethyldiphenylacetic acid (Atti Accad., Lettere Arti Palermo, Pt. I24 (1965) 19–33), which of course reduce the yield and make necessary additional purification steps.

reactant | 2,4,5-trimethylphenylacetic acid | CC1=C(C=C(C(=C1)C)C)CC(=O)O | C11H14O2
reactant | pseudocumene | C=1(C)C(C)=CC(C)=CC1 | C9H12
reactant | glyoxylic acid | C(C=O)(=O)O | C2H2O3
product | 2,4,5-trimethylmandelic acid | CC1=C(C(C(=O)O)O)C=C(C(=C1)C)C | C11H14O3
